US04772597
Pyrrolidin-2,5-dion-3-yl Thioacetate
Maleimide (5.0 g., 0.051 mole) was added to 10 ml. (0.14 mole) thioacetate acid cooled to 0° C. under nitrogen. The mixture was stirred at 0° C. for 70 min., then filtered. The filtrate was diluted with 70 ml. ethyl acetate and the resulting solution was washed with 50 ml. saturated aqueous sodium bicarbonate solution and 50 ml. saturated aqueous sodium chloride solution. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated in vacuo to a yellow oil (5.4 g). The crude product was purified by flash chromatography on silica gel (350 g.), eluting with 1:3 ethyl acetate-hexane, to yield 3.81 g (43%) of the title compound as a white solid. The NMR spectrum of the title compound as a deuterochloroform solution had peaks at 2.38 (s) and 2.3-3.54 (m) (total 5H); 4.24 (m, 1H); and 8.86 (b, 1H)ppm.

reactant | Maleimide | 0.051 mole, 5.0 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | thioacetate | 0.14 mole | C(C)(=S)[O-]
product | Pyrrolidin-2,5-dion-3-yl Thioacetate | 3.81 g, 43% | C(C)(=S)OC1C(NC(C1)=O)=O | C6H7NO3S
